US07737166B2
Ethyl 2-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}-1,3-thiazole-4-carboxylate (I-198)
(3S)-3-(Dimethylamino)pyrrolidine (91.6 μl, 0.722 mmol) and triethylamine (101 μl, 0.722 mmol) were added to a dimethyl sulfoxide (2 ml) solution of ethyl 2-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)-1,3-thiazole-4-carboxylate (I-197) (147 mg, 0.361 mmol), followed by stirring in an oil bath at 100° C. for 3 hours. The reaction liquid was concentrated under reduced pressure, the residue was dissolved in chloroform (100 ml) and washed with water (50 ml) and saturated brine (50 ml). After drying over anhydrous sodium sulfate and concentration, the resulting residue was purified by silica gel column chromatography (eluent, chloroform:methanol=100:1→100:3), and the obtained yellow solid was purified in slurry with isopropanol (3 ml) to obtain the entitled compound (120 mg, 66.3%) as a pale yellow solid.

reactant | (3S)-3-(Dimethylamino)pyrrolidine | 0.722 mmol, 91.6 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | triethylamine | 0.722 mmol, 101 μl | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)-1,3-thiazole-4-carboxylate | 0.361 mmol, 147 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C=2SC=C(N2)C(=O)OCC)F)C2=CC=CC=C2)C | C21H14FN3O3S
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
product | Ethyl 2-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}-1,3-thiazole-4-carboxylate | 120 mg, 66.3% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C=2SC=C(N2)C(=O)OCC)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C27H27N5O3S
